US05977119
A. 1,3-Diethyl-8cyclopropyl-2-thioxanthine
25.1 g (100 mM) of 5,6-diamino-1,3-diethyl-2-thiouracil HCl were dissolved in 400 ml of pyridine, 12.72 g (120 mM) of sodium carbonate added, and under cooling a solution of 10.77 ml (120 mM) of cyclopropanecarbonyl chloride in 50 ml of dried ether added within 10 min. After 20 min the solvents were evaporated in vacuo. The residue was treated with 200 ml of water and about 50 ml were removed again in vacuo. The suspension was diluted with 100 ml of 2N aqueous sodium hydroxide (NaOH) and heated under reflux for 30 min. A further 80 ml were distilled off during this time. After cooling the solution was acidified with 5N aqueous hydrochloric acid (HCl) to pH 5.5; 200 ml of water was added and the resulting suspension filtered. The solid was collected and washed, redissolved in 200 ml of 1N NaOH, treated twice with 0.4 g of charcoal, filtered and acidified again to pH 4.5. The solid was collected again, washed and dried to give 25.5 g of a solid which was suspended in 400 ml of hot methanol. The solid was collected again, washed and dried to give 23.5 g (89.0%) of 2-thioxanthine with mp subl 265-7° C.

reactant | 5,6-diamino-1,3-diethyl-2-thiouracil HCl | 100 mM, 25.1 g | Cl.NC=1C(N(C(N(C1N)CC)=S)CC)=O
reactant | sodium carbonate | 120 mM, 12.72 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | cyclopropanecarbonyl chloride | 120 mM, 10.77 ml | C1(CC1)C(=O)Cl | C4H5ClO
solvent | pyridine | 400 ml | N1=CC=CC=C1 | C5H5N
solvent | ether | 50 ml | CCOCC | C4H10O
product | 1,3-Diethyl-8cyclopropyl-2-thioxanthine | 25.5 g | C(C)N1C(=S)N(C=2N=C(NC2C1=O)C1CC1)CC | C12H16N4OS
